US08703941B2
A mixture of 4-aminocyclohexanol (3.9 g, 34 mmol) and isobenzofuran-1,3-dione (4.9 g, 34 mmol, 1.0 eq) in 100 mL of EtOH was heated at reflux for 2 days. EtOH was removed and the residue was purified by column chromatography on silica gel (eluent with DCM) to give 2-(4-hydroxycyclohexyl)isoindoline-1,3-dione as white solid (5.0 g, 59%). MS: m/z 246.0 (M+H)+.

reactant | 4-aminocyclohexanol | 34 mmol, 3.9 g | NC1CCC(CC1)O | C6H13NO
reactant | isobenzofuran-1,3-dione | 34 mmol, 4.9 g, 1.0 eq | C1(OC(C2=CC=CC=C12)=O)=O | C8H4O3
solvent | EtOH | 100 mL | CCO | C2H6O
product | 2-(4-hydroxycyclohexyl)isoindoline-1,3-dione | 5.0 g, 59% | OC1CCC(CC1)N1C(C2=CC=CC=C2C1=O)=O | C14H15NO3
